US06194425B1
Using the general method of Example 92, crotonyl chloride (68 μL, 0.7 mmol) was reacted with 2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethaneamine (0.2 g, 0.7 mmol) to provide 0.2 g of N1-[2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethyl]-(E)-2-butenamide as a white powder, m.p. 198-200° C. Analysis: Calculated for C19H24N6O: % C, 64.75; % H, 6.86; % N, 23.85; Found: % C, 64.25; % H, 6.68; % N, 23.99. HRMS (EI) calcd for C19H24N6O (M+) 352.2011 found 352.1996

reactant | crotonyl chloride | 0.7 mmol, 68 μL | C(\C=C\C)(=O)Cl | C4H5ClO
reactant | 2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethaneamine | 0.7 mmol, 0.2 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCN)CCCC | C15H20N6
product | N1-[2-(4-amino-2-butyl-1H-imidazo[4,5-c][1,5]naphthyridin-1-yl)ethyl]-(E)-2-butenamide | 0.2 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CCNC(\C=C\C)=O)CCCC | C19H24N6O
